US08729102B2
A) 2-[4-(benzyloxy)phenyl]-6-(cyclopropylmethoxy)[1,2,4]triazolo[1,5-a]pyridine
(Aminooxy)(hydroxy)sulfane dioxide (3.39 g) was dissolved in water (10 mL), and saturated aqueous sodium hydrogen carbonate solution was added dropwise thereto at 0° C. to neutralize the solution. To the obtained mixture was added a solution of 5-(cyclopropylmethoxy)pyridin-2-amine (1.64 g) in ethanol (25 ml) at 0° C., and the mixture was stirred at 70° C. for 3 days. To the reaction mixture were added 4-(benzyloxy)benzaldehyde (2.12 g) and potassium carbonate (4.15 g), and the mixture was stirred at 70° C. for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate and water, and the aqueous layer was separated from the organic layer. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a yellow solid (134 mg).

reactant | (Aminooxy)(hydroxy)sulfane dioxide | 3.39 g | NOS(O)(=O)=O | H3NO4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 5-(cyclopropylmethoxy)pyridin-2-amine | 1.64 g | C1(CC1)COC=1C=CC(=NC1)N | C9H12N2O
reactant | 4-(benzyloxy)benzaldehyde | 2.12 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 mL | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-[4-(benzyloxy)phenyl]-6-(cyclopropylmethoxy)[1,2,4]triazolo[1,5-a]pyridine | 134 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)OCC2CC2)=N1 | C23H21N3O2
